US07223793B2
Preparation of 2-[3-(3,4-dihydroxyphenyl)propionylamino]-3-indolyl propionic acid ethyl ester
3,4-dihydroxyphenyl propionic acid (5.8 g, 31.8 mmol), tryptophan ethyl ester (8.1 g, 34.9 mmol), 1-hydroxybenzotriazole hydrate (5.2 g, 38.5 mmol) were dissolved in dimethylformamide (60 mL). The resulting solution was then placed in a water bath at 0° C. and treated with triethylamine (14 mL), followed by stirring for 10 minutes. To the resulting mixture, 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (7.3g, 38.5 mmol) was added. After removing the water bath, the mixture was stirred for 18 hours at room temperature. The reaction was diluted in water (200 mL), extracted with ethylacetate (EtOAc) (500 mL), dried over magnesium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography (column size: 45 mm×150 mm, silica gel 70-230 mesh, eluent: hexane/EtOAc (1/2)) to obtain 11.6 g of the title compound. The yield was 92%. The results of analyses of the compound are as follows:

reactant | 3,4-dihydroxyphenyl propionic acid | 31.8 mmol, 5.8 g | OC=1C=C(C=CC1O)C(C(=O)O)C | C9H10O4
reactant | tryptophan ethyl ester | 34.9 mmol, 8.1 g | C(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C13H16N2O2
reactant | 1-hydroxybenzotriazole hydrate | 38.5 mmol, 5.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 38.5 mmol, 7.3g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 14 mL | C(C)N(CC)CC | C6H15N
product | 2-[3-(3,4-dihydroxyphenyl)propionylamino]-3-indolyl propionic acid ethyl ester | 11.6 g, yield was 92% | C(C)OC(C(CC=1NC2=CC=CC=C2C1)NC(CCC1=CC(=C(C=C1)O)O)=O)=O | C22H24N2O5
